US06015829
To a solution (10 ml) of ethyl 1-(3-cyano-4-((S)-2-methylbutoxy)phenyl)-pyrazole-4-carboxylate (1.7 g) in ethanol was added 1 N aqueous sodium hydroxide solution (6.3 ml) with stirring, and the mixture was heated at 80° C. for 30 minutes. After the completion of the reaction, the reaction mixture was pouted into water and neutralized with acetic acid. The precipitated crystals were recrystallized from a mixed solvent of ethyl alcohol and water to give 0.8 g of 1-(3-cyano-4-((S)-2-methylbutoxy) phenyl)pyrazole-4-carboxylic acid, melting point 184-186° C. [α] D25 +10.49° (c=0.5,MeOH)

reactant | ethyl 1-(3-cyano-4-((S)-2-methylbutoxy)phenyl)-pyrazole-4-carboxylate | 10 ml, 1.7 g | C(#N)C=1C=C(C=CC1OC[C@H](CC)C)N1N=CC(=C1)C(=O)OCC | C18H21N3O3
reactant | sodium hydroxide | 1 N, 6.3 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-cyano-4-((S)-2-methylbutoxy) phenyl)pyrazole-4-carboxylic acid | 0.8 g | C(#N)C=1C=C(C=CC1OC[C@H](CC)C)N1N=CC(=C1)C(=O)O | C16H17N3O3
